US04125729
Methyl α-(p-fluorophenoxy)-α-[p-(p-methylsulfonylphenoxy)phenyl]acetate
To a solution of 2.7 g of p-fluorophenol in 20 ml of methanol was added 1.89 g of sodium methoxide. To the solution was added 7.98 g of methyl α-bromo-α-[p-(p-methylsulfonylphenoxy)phenyl]acetate in 40 ml of methanol. The mixture was refluxed and stirred for 18 hours, chilled and filtered to give 4.3 g of white crystals, mp 135°-137° C. Recrystallization from acetone-hexane gave the product as white crystals, mp 136°-138° C.

reactant | p-fluorophenol | 2.7 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | sodium methoxide | 1.89 g | C[O-].[Na+]
reactant | methyl α-bromo-α-[p-(p-methylsulfonylphenoxy)phenyl]acetate | 7.98 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C16H15BrO5S
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 40 ml | CO | CH4O
product | Methyl α-(p-fluorophenoxy)-α-[p-(p-methylsulfonylphenoxy)phenyl]acetate | 4.3 g | FC1=CC=C(OC(C(=O)OC)C2=CC=C(C=C2)OC2=CC=C(C=C2)S(=O)(=O)C)C=C1 | C22H19FO6S
